US04339373
Preparation of Stearyl Methacrylate/Methacrylic Acid Polymeric Soap
The resultant product contained 24.64 percent by weight of a 1:2 copolymer of stearyl methacrylate (SMA) and methacrylic acid (MAA), 0.61 percent residual SMA; less than 0.02 percent residual MAA; no initiator; less than 0.05 percent 2-mercaptoethanol; and had a bulk viscosity at 25° C. of about 4000-5000 centipoise. When the product was diluted to 10% polymeric solids with further oil, the solution had a viscosity at 25° C. of 36-46 centipoise.

reactant | stearyl methacrylate | C(C(=C)C)(=O)OCCCCCCCCCCCCCCCCCC | C22H42O2
reactant | methacrylic acid | C(C(=C)C)(=O)O | C4H6O2
reactant | 2-mercaptoethanol | SCCO | C2H6OS
product | Stearyl Methacrylate Methacrylic Acid | C(C(=C)C)(=O)OCCCCCCCCCCCCCCCCCC.C(C(=C)C)(=O)O | InChI=1S/C22H42O2.C4H6O2/c1-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-20-24-22(23)21(2)3;1-3(2)4(5)6/h2,4-20H2,1,3H3;1H2,2H3,(H,5,6)
